US06780858B2
To a dichloroethane solution of 7-pyrrolidin-1-yl-benzofuran-2-carboxylic acid (3-chloro-phenyl)-amide (343 mg, 1 μM) was added phosphorous pentachloride (210 mg, 1.2 mmol), and the mixture was stirred at 75° C. for 2 hours. The solvent was removed under vacuum, the mixture was treated with 5 ml of toluene and then was evaporated to dryness under vacuum. The residue was dissolved in acetonitrile and was added to another flask containing 210 mg (3 mmol) hydroxylamine hydrochloride and triethyl amine 701 μL (5 mmol) in acetonitrile at 0° C. The mixture was allowed to stir overnight. The reaction mixture was diluted with ethyl acetate, washed with 1 N HCl (2×) and brine. The organic layer was dried over MgSO4, filtered and stripped. The crude product was purified by flash chromatography on silica gel eluted with hexane/ethyl acetate (20:1) to give 43 mg of 3-chloro-N-(3-chloro-phenyl)-N′-hydroxy-7-pyrrolidin-1-yl-benzofuran-2-carboxamidine in 13% yield.

reactant | dichloroethane | ClC(C)Cl | C2H4Cl2
reactant | 7-pyrrolidin-1-yl-benzofuran-2-carboxylic acid (3-chloro-phenyl)-amide | 1 μM, 343 mg | ClC=1C=C(C=CC1)NC(=O)C=1OC2=C(C1)C=CC=C2N2CCCC2 | C19H17ClN2O2
reactant | phosphorous pentachloride | 1.2 mmol, 210 mg | P(Cl)(Cl)(Cl)(Cl)Cl | Cl5P
reactant | hydroxylamine hydrochloride | 3 mmol, 210 mg | Cl.NO
reactant | triethyl amine | 5 mmol, 701 μL | C(C)N(CC)CC | C6H15N
solvent | acetonitrile | C(C)#N | C2H3N
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 3-chloro-N-(3-chloro-phenyl)-N′-hydroxy-7-pyrrolidin-1-yl-benzofuran-2-carboxamidine | 43 mg, 13% yield | ClC1=C(OC2=C1C=CC=C2N2CCCC2)C(=NO)NC2=CC(=CC=C2)Cl | C19H17Cl2N3O2
